US06673797B1
(1) Preparation of 1-Benzenesulfonyl-2-trimethylsilyl-5-methylthio-1H-pyrrolo[2,3-b]pyridine
A mixture of trimethylsilylacetylene (0.41 g), 2-benzenesulfonylamino-3-iodo-5-methylthiopyridine (0.82 g), triethylamine (0.42 g), cuprous iodide (30 mg), dichlorobis(triphenylphosphine)palladium (75 mg) and dioxane (2 ml) was stirred at 70° C. for 16 hours under nitrogen atmosphere. To the reaction solution were then added water and ethyl acetate. The insolubles were filtered off. To the filtrate was added a saturated aqueous sodium hydrogencarbonate solution, and the mixture was extracted with ethyl acetate, dried over anhydrous sodium sulfate, filtered and concentrated. The resulting residue was subjected to silica gel column chromatography (hexane:ethyl acetate=10:1) to obtain 0.61 g of the desired product.

reactant | trimethylsilylacetylene | 0.41 g | C[Si](C)(C)C#C | C5H10Si
reactant | 2-benzenesulfonylamino-3-iodo-5-methylthiopyridine | 0.82 g | C1(=CC=CC=C1)S(=O)(=O)NC1=NC=C(C=C1I)SC | C12H11IN2O2S2
reactant | triethylamine | 0.42 g | C(C)N(CC)CC | C6H15N
reactant | dioxane | 2 ml | O1CCOCC1 | C4H8O2
catalyst | dichlorobis(triphenylphosphine)palladium | 75 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | 1-Benzenesulfonyl-2-trimethylsilyl-5-methylthio-1H-pyrrolo[2,3-b]pyridine | 0.61 g | C1(=CC=CC=C1)S(=O)(=O)N1C(=CC=2C1=NC=C(C2)SC)[Si](C)(C)C | C17H20N2O2S2Si
